US05591762
4'-[[2-n-Propyl-5-(imidazo[1,2-a]pyridin-2-yl)-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid
Prepared analogously to Example 1 from tert.butyl 4'-[[2-n-propyl-5-(imidazo[1,2-a]pyridin-2-yl)-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.butyl 4'-[[2-n-propyl-5-(imidazo[1,2-a]pyridin-2-yl)-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC(=C2)C=2N=C1N(C=CC=C1)C2 | C35H34N4O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[[2-n-Propyl-5-(imidazo[1,2-a]pyridin-2-yl)-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC(=C2)C=2N=C1N(C=CC=C1)C2 | C31H26N4O2
